US08183239B2
2-Ethyl-N-{4-[4-(ethylcarbamoyl-phenyl-methyl)-piperazin-1-yl]-2-fluoro-phenyl}-butyramide
To a solution of N-(4-bromo-2-fluoro-phenyl)-2-ethyl-butyramide (20 mg, 0.07 mmol), N-ethyl-2-phenyl-2-piperazin-1-yl-acetamide (18 mg, 0.07 mmol), Pd2(dba)3 (10 mg), and 2-(dicyclohexylphosphino)biphenyl (1 mg) in toluene was added sodium tert-butoxide (20 mg). The mixture was heated in a focused microwave at 110° C. for 1.5 h. The crude reaction mixture was purified by reverse phase HPLC (Agilent method) to provide the title compound (4 mg, 13%). MS (ESI): mass calcd. for C26H35FN4O2, 454.27. m/z found, 455.4 [M+H]+. 1H NMR (CDCl3): 8.10 (dd, J=9.6, 8.9, 1H), 7.38-7.30 (m, 3H), 7.14-6.99 (m, 2H), 6.68-6.59 (m, 2H), 3.88 (s, 1H), 3.43-3.29 (m, 2H), 3.21-3.10 (m, 4H), 2.66-2.55 (m, 4H), 2.12-2.00 (m, 1H), 1.79-1.67 (m, 2H), 1.66-1.47 (m, 2H), 1.18 (t, J=7.2, 3H), 0.98 (t, J=7.4, 6H).

reactant | N-(4-bromo-2-fluoro-phenyl)-2-ethyl-butyramide | 0.07 mmol, 20 mg | BrC1=CC(=C(C=C1)NC(C(CC)CC)=O)F | C12H15BrFNO
reactant | N-ethyl-2-phenyl-2-piperazin-1-yl-acetamide | 0.07 mmol, 18 mg | C(C)NC(C(N1CCNCC1)C1=CC=CC=C1)=O | C14H21N3O
reactant | 2-(dicyclohexylphosphino)biphenyl | 1 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | sodium tert-butoxide | 20 mg | CC(C)([O-])C.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 10 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-Ethyl-N-{4-[4-(ethylcarbamoyl-phenyl-methyl)-piperazin-1-yl]-2-fluoro-phenyl}-butyramide | 4 mg, 13% | C(C)C(C(=O)NC1=C(C=C(C=C1)N1CCN(CC1)C(C1=CC=CC=C1)C(NCC)=O)F)CC | C26H35FN4O2
